US07910740B2
[4-(5-Bromo-2-methoxy-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from 102 mg (0.33 mmol) 2-bromo-1-(5-bromo-2-methoxyphenyl)ethanone and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude reaction was diluted with diethyl ether and stirred for 15 minutes at room temperature. The product was filtered off and dried to yield 147 mg (99%) [4-(5-bromo-2-methoxy-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a white solid. MS ISP (m/e): 472.8/470.9 (100/93) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.74 (s, 1H), 9.30 (s, 1H), 8.34 (dd, 1H), 7.70 (s, 1H), 7.60 (s, 1H), 7.51 (d, 1H), 7.47 (d, 1H), 7.13 (d, 1H), 7.05 (d, 1H), 4.00 (s, 3H), 3.95 (s, 3H), 2.35 (s, 3H).

reactant | 2-bromo-1-(5-bromo-2-methoxyphenyl)ethanone | 0.33 mmol, 102 mg | BrCC(=O)C1=C(C=CC(=C1)Br)OC | C9H8Br2O2
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | [4-(5-bromo-2-methoxy-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 147 mg, 99% | BrC=1C=CC(=C(C1)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)OC | C21H19BrN4O2S
